US08629137B2
7-chloro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
801 mg (6.00 mmol) N-chlorosuccinimide were added to 1.23 g (5.00 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one in 10.0 mL carbon tetrachloride and the mixture was refluxed for 72 h. The solvent was eliminated i. vac. and the crude product was purified by flash chromatography. The fractions containing the product were concentrated by rotary evaporation and purified by preparative HPLC.

reactant | N-chlorosuccinimide | 6.00 mmol, 801 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 5.00 mmol, 1.23 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | carbon tetrachloride | 10.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-chloro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | ClC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C14H18ClN3O
